US05314693
In an atmosphere of nitrogen, 7.75 g (36.9 mmol) of 2-methoxystilbene (c-2) is dissolved in anhydrous dichloromethane. Fourty milliliters of a dichloromethane solution containing 3.2 g (12.9 mmol) of boron tribromide is added dropwise thereto at -78° C. (on a dry ice-acetone bath), followed by stirring overnight at room temperature. The reaction solution is cooled on an ice bath, and a 10% aqueous solution of KOH is added thereto drop by drop to decompose a boron complex formed in the reaction solution. This reaction solution is transferred to a separatory funnel, and 2M HCl is added thereto until the aqueous layer becomes acidic. The resulting solution is extracted with three 200 ml portions of chloroform. The chloroform layer is washed with two 50 ml portions of water and dried over anhydrous Na2SO4, followed by filtration. When the solvent is removed by distillation under reduced pressure, a brown oily product containing 2-hydroxystilbene (d-2) is obtained. This oily product is purified by column chromatography [SiO2 : 200 g, hexane-ethyl acetate (9:1 v/v)], and further recrystallized from hexane-ethyl acetate, thereby obtaining 5.05 g (yield: 69.9%) of 2-hydroxystilbene (d-2) (sample No. 9) as white needle crystals (melting point: 138°-139° C.).

reactant | 2-methoxystilbene | 36.9 mmol, 7.75 g | COC1=C(C=CC=C1)C=CC1=CC=CC=C1 | C15H14O
reactant | boron tribromide | 12.9 mmol, 3.2 g | B(Br)(Br)Br | BBr3
reactant | KOH | [OH-].[K+]
reactant | HCl | 2M | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-hydroxystilbene | 5.05 g, yield: 69.9% | OC1=C(C=CC=C1)C=CC1=CC=CC=C1 | C14H12O
